US05846989
a) 2-[2-(2-Methylphenyl)ethoxy]acetic acid
The subtitle compound (8.91 g) was prepared according to the procedure in example 5 part a using 2-(2-methylphenyl)ethanol (5.0 g), t-butylbromoacetate (5.47 ml), tetrabutylammoniumbromide (0.78 g), toluene (80 ml), 50% aqueous sodium hydroxide (40 ml), trifluoroacetic acid (20 ml) and dichloromethane (20 ml).

reactant | 2-(2-methylphenyl)ethanol | 5.0 g | CC1=C(C=CC=C1)CCO | C9H12O
reactant | t-butylbromoacetate | 5.47 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | tetrabutylammoniumbromide | 0.78 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(2-Methylphenyl)ethoxy]acetic acid | 8.91 g | CC1=C(C=CC=C1)CCOCC(=O)O | C11H14O3
